US05908858
46(i) Methyl 2-(4-methylthiophenacyl)cyanoacetate
5.70 g (57.6 mmol) of methyl cyanoacetate were dissolved in 150 ml of anhydrous tetrahydrofuran, and 7.10 g (63.3 mmol) of potassium t-butoxide were added to the resulting solution, whilst ice-cooling, and the mixture was then stirred for 30 minutes. At the end of this time, a solution of 14.11 g (57.6 mmol) of 4-methylthiophenacyl bromide in 50 ml of tetrahydrofuran was slowly added dropwise to the mixture, whilst ice-cooling. The mixture was stirred, whilst ice-cooling for 2 hours, and then a saturated aqueous solution of ammonium chloride and ethyl acetate were added. The insolubles were then filtered off. Water was added to the filtrate, and the mixture was extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate and the solvent was then removed by distillation under reduced pressure. The residue was applied to a silica gel chromatography column and eluted with a 1:2 by volume mixture of ethyl acetate and hexane, to give 3.11 g (yield 21%) of the title compound as a slightly yellow powder.

reactant | methyl cyanoacetate | 57.6 mmol, 5.70 g | C(#N)CC(=O)OC | C4H5NO2
reactant | potassium t-butoxide | 63.3 mmol, 7.10 g | CC(C)([O-])C.[K+]
reactant | 4-methylthiophenacyl bromide | 57.6 mmol, 14.11 g | CC1=CC=C(C(CBr)=S)C=C1 | C9H9BrS
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(4-methylthiophenacyl)cyanoacetate | 3.11 g, yield 21% | CC1=CC=C(C(CC(C(=O)OC)C#N)=S)C=C1 | C13H13NO2S
